US07723350B2
Intermediate 17: 1,1-Dimethylethyl 5-fluoro-1′-[2-hydroxy-2-(1-{[(phenylmethyl)oxy]carbonyl}-4-piperidinyl)ethyl]spiro[indole-3,4′-piperidine]-1(2H)-carboxylate
Phenylmethyl 4-(2-oxiranyl)-1-piperidinecarboxylate (990 mg) was added to a solution of 1,1-dimethylethyl 5-fluorospiro[indole-3,4′-piperidine]-1(2H)-carboxylate (1.16 g) in EtOH (20 mL). The reaction was heated to 95° C. for 7 h and then stirred at room temperature overnight. The solvent was removed and the title compound was obtained as crude oil. MS (ES) m/e 568 [M+H]+.

reactant | Phenylmethyl 4-(2-oxiranyl)-1-piperidinecarboxylate | 990 mg | O1C(C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H19NO3
reactant | 1,1-dimethylethyl 5-fluorospiro[indole-3,4′-piperidine]-1(2H)-carboxylate | 1.16 g | FC=1C=C2C(=CC1)N(CC21CCNCC1)C(=O)OC(C)(C)C | C17H23FN2O2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 1,1-Dimethylethyl 5-fluoro-1′-[2-hydroxy-2-(1-{[(phenylmethyl)oxy]carbonyl}-4-piperidinyl)ethyl]spiro[indole-3,4′-piperidine]-1(2H)-carboxylate | FC=1C=C2C(=CC1)N(CC21CCN(CC1)CC(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)O)C(=O)OC(C)(C)C | C32H42FN3O5
